US06770667B1
To a suspension of 2-hydrazinobenzoic acid hydrochloride (2.0 g) in acetic acid (8 ml) was added dropwise a solution of 2-butanone (0.9 ml) in acetic acid (2 ml), and the resultant mixture was heated at 80° C. for one hour. After 6N-hydrochloric acid (8 ml) was added to the reaction mixture, the mixture was heated at 100° C. for 5 hours. The mixture was diluted with water (18 ml), and allowed to cool to 40° C. The resultant precipitate was collected by filtration, washed with a small amount of diisopropyl ether and dried in vacuo to give 2,3-dimethyl-1H-indole-7-carboxylic acid (0.78 g).

reactant | 2-hydrazinobenzoic acid hydrochloride | 2.0 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | 2-butanone | 0.9 ml | CC(CC)=O | C4H8O
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | 18 ml | O | H2O
product | 2,3-dimethyl-1H-indole-7-carboxylic acid | 0.78 g | CC=1NC2=C(C=CC=C2C1C)C(=O)O | C11H11NO2
